US05780505
4-[{3,4-Dioxo-2-(1,2,2-trimethyl-propylamino)-cyclobut-1-enylamino]-methyl}-2-ethyl-benzonitrile
This compound was prepared according to the procedure described in Example 24, Step 1. From 3-ethyl-4-cyanobenzaldehyde oxime (0.88 g, 5.05 mmol), zinc powder (1.32 g, 20 mmol), glacial acetic acid (10 mL), and 3,4-diethyoxy-3-cyclobutene-1,2-dione (0.75 mL, 5.07 mmol) in absolute ethanol (100 mL) there was obtained after chromatography on silica gel (hexane:ethyl acetate (1:1), 5% methanol in dichloromethane) 0.64 g (45%) of a solid. Following the procedure described in Example 34, a portion of this solid, 3-ethoxy-4-(3-ethyl-4-cyano-benzylamino)-cyclobut-3-ene-1,2-dione (0.38 g, 1.34 mmol), (R)-2-amino-3,3-dimethylbutane (10 mL of a 0.2M solution in absolute ethanol, 2.0 mmol), and dichloromethane was allowed to stand for 24 hours at room temperature. The resulting solid was filtered, rinsed with acetonitrile (5×1 mL) and dried. This gave 0.22 g (48%) of the (R) isomer of the title compound as a white solid: mp 251°-253° C.; [α]25D =+28.48° (4.2 mg/mL, DMSO); 1H NMR (DMSO-d6) δ7.79 (d, 1H), 7.68 (br m, 1H), 7.44 (s, 1H), 7.34 (d, 1H), 7.28 (br d, 1H), 4.78 (m, 2H), 3.91 (br m, 1H), 2.79 (q, 2H), 1,21 (t, 3H), 1.10 (d, 3H), 0.85 (s, 9H) ppm. IR (KBr): 3210, 2980, 2210, 1790, 1650 cm-1 ; MS (m/z) 339 (M+).

reactant | 3-ethoxy-4-(3-ethyl-4-cyano-benzylamino)-cyclobut-3-ene-1,2-dione | 1.34 mmol, 0.38 g | C(C)OC=1C(C(C1NCC1=CC(=C(C=C1)C#N)CC)=O)=O | C16H16N2O3
reactant | (R)-2-amino-3,3-dimethylbutane | N[C@H](C)C(C)(C)C | C6H15N
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 4-[{3,4-Dioxo-2-(1,2,2-trimethyl-propylamino)-cyclobut-1-enylamino]-methyl}-2-ethyl-benzonitrile | O=C1C(=C(C1=O)NCC1=CC(=C(C#N)C=C1)CC)NC(C(C)(C)C)C | C20H25N3O2
